US08835420B2
Step A: (E)-2-(5-Bromo-3-nitropyridin-2-yl)-N,N-dimethylethen-1-amine
N,N-Dimethylformamide (270 kg), 5-bromo-2-methyl-3-nitropyridine (90.0 kg, 415 mol), and N,N-dimethylformamide dimethyl acetal (108.0 kg, 906.3 mol) were added to a 2000 L vessel at RT. The reaction mixture was stirred at RT for 30 minutes, then heated to 90±5° C. over a 3-hour period and maintained at this temperature for 4 hours. The mixture was subsequently cooled to 25±5° C. Water (945 kg) was added while keeping the temperature of the mixture at 25±5° C. After the addition of water, the reaction mixture was stirred for 2 hours. The solids were centrifuged to obtain wet product, which was slurried in isopropanol (207 kg) for 1 hour at 25±5° C. The solids were centrifuged again to obtain the title compound as a wet solid (105 kg, 92.5 wt % assay). The product was used in the next step without additional drying.

reactant | N,N-Dimethylformamide | 270 kg | CN(C=O)C | C3H7NO
reactant | 5-bromo-2-methyl-3-nitropyridine | 415 mol, 90.0 kg | BrC=1C=C(C(=NC1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | N,N-dimethylformamide dimethyl acetal | 906.3 mol, 108.0 kg | COC(N(C)C)OC | C5H13NO2
reactant | Water | 945 kg | O | H2O
solvent | isopropanol | 207 kg | C(C)(C)O | C3H8O
product | (E)-2-(5-Bromo-3-nitropyridin-2-yl)-N,N-dimethylethen-1-amine | 105 kg | BrC=1C=C(C(=NC1)/C=C/N(C)C)[N+](=O)[O-] | C9H10BrN3O2
